US04052514
A solution of 2,2',4'-trifluoro-4-biphenylyl acetic acid (10 g.) in anhydrous methanol (100 ml.) and concentrated sulphuric acid (5 ml.) was refluxed overnight. Excess solvent was distilled and the residue was poured onto ice-water and extracted with ether. The extracts were washed with dilute aqueous sodium bicarbonate and then dried, evaporated and distilled to give a yellow oil, b.p. 142°-146°/0.5 mm., which solidified on cooling. This was crystallized from 62-68 petroleum ether to give methyl 2,2',4'-trifluoro-4-biphenylylacetate, m.p. 74°-77° C.

reactant | 2,2',4'-trifluoro-4-biphenylyl acetic acid | 10 g | FC1=C(C=CC(=C1)CC(=O)O)C1=C(C=C(C=C1)F)F | C14H9F3O2
reactant | methanol | 100 ml | CO | CH4O
solvent | sulphuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | methyl 2,2',4'-trifluoro-4-biphenylylacetate | FC1=C(C=CC(=C1)CC(=O)OC)C1=C(C=C(C=C1)F)F | C15H11F3O2
